US07456169B2
A solution of 5-chloro-2-nitro-aniline (6.902 g, 40 mmol), Zn(CN)2 (2.818 g, 24 mmol), and Pd(PPh3)4 (2.311 g, 2 mmol) in DMF (40 mL) was heated to 120° C. for 4 days. Cooled to room temperature. Partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel with 4:1 hexanes/ethyl acetate to provide 1.49 g (23%) of 3-amino-4-nitro-benzonitrile.

reactant | 5-chloro-2-nitro-aniline | 40 mmol, 6.902 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 24 mmol, 2.818 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 2 mmol, 2.311 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-4-nitro-benzonitrile | 1.49 g, 23% | NC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H5N3O2
